US03933836
B. 1-(phenylmethyl)-2(1H)-pyridinimine
To a solution of 2-amino-1-(phenylmethyl)pyridinium bromide (94.5 g) in 700 ml of methanol is added, portionwise, a total of 38.5 g of sodium methoxide. The mixture is stirred and heated under reflux conditions for 2.5 hours. Workup yields 63.4 g of the title compound, melting point 52°-54°C.

reactant | 2-amino-1-(phenylmethyl)pyridinium bromide | 94.5 g | [Br-].NC1=[N+](C=CC=C1)CC1=CC=CC=C1
reactant | sodium methoxide | 38.5 g | C[O-].[Na+]
solvent | methanol | 700 ml | CO | CH4O
product | 1-(phenylmethyl)-2(1H)-pyridinimine | 63.4 g | C1(=CC=CC=C1)CN1C(C=CC=C1)=N | C12H12N2
